US05698692
To the solution of 3,4-dihydroxybenzoic acid (1.13 g) in benzene (50 ml) were added benzyl alcohol (3.8 ml) and p-toluenesulfonic acid (139 mg), and the mixture was heated at reflux in the presence of Molecular Sieves 4A for 2 days. Further amount of benzyl alcohol (1.5 ml) was added. The mixture was then heated at reflux overnight. After cooling by standing, saturated aqueous sodium hydrogen carbonate was added. The mixture was extracted with ethyl acetate, washed with brine and dried over anhydrous magnesium sulfate. After the solvent was removed by distillation, the residue was dissolved in ethyl acetate and extracted with 1N sodium hydroxide. The aqueous layer was acidified with hydrochloric acid and extracted with ethyl acetate. After the organic layer was washed with brine, dried over anhydrous magnesium sulfate, the solvent was removed by distillation. The residue was purified by column chromatography on silica gel with an eluent system of chloroform:methanol=30:1 to give 953 mg of benzyl 3,4-dihydroxybenzoate (yield, 53%).

reactant | 3,4-dihydroxybenzoic acid | 1.13 g | OC=1C=C(C(=O)O)C=CC1O | C7H6O4
reactant | benzyl alcohol | 3.8 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | p-toluenesulfonic acid | 139 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | benzyl alcohol | 1.5 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | benzyl 3,4-dihydroxybenzoate | 953 mg, 53% | OC=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1O | C14H12O4
